US04883815
1.57 g (0.042 mol) of lithium aluminum hydride are suspended in 60 ml of tetrahydrofuran under argon, 5.56 g (0.021 mol) of 8,9-dichloro-1,4,5,6-tetrahydrobenzo[f]-quinolin-3(2H)-one are slowly added thereto and the mixture is boiled under reflux for 2.5 hours. The mixture is then cooled to 0°, 5.2 ml of 18 percent sodium hydroxide solution are added dropwise thereto and the precipitate formed is removed by filtration. On evaporation of the filtrate, there is obtained 8,9-dichloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline as a yellow oil which is processed directly.

reactant | lithium aluminum hydride | 0.042 mol, 1.57 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 8,9-dichloro-1,4,5,6-tetrahydrobenzo[f]-quinolin-3(2H)-one | 0.021 mol, 5.56 g | ClC1=CC2=C(C=3CCC(NC3CC2)=O)C=C1Cl | C13H11Cl2NO
reactant | sodium hydroxide | 5.2 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 8,9-dichloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | ClC1=CC2=C(C=3CCCNC3CC2)C=C1Cl | C13H13Cl2N
